US08034812B2
Production of 2-oxo-2-{[6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}ethyl acetate
Using N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide (300 mg, 0.725 mmol), triethylamine (152 μL, 1.08 mmol), 2-chloro-2-oxoethyl acetate (94 μL, 0.870 mmol) and tetrahydrofuran (7 mL) as starting materials and in the same manner as in Example 388, the title compound (299 mg, 80%) was obtained as a white powder.

reactant | N-{3-[(2-aminoimidazo[1,2-b]pyridazin-6-yl)oxy]phenyl}-3-(trifluoromethyl)benzamide | 0.725 mmol, 300 mg | NC=1N=C2N(N=C(C=C2)OC=2C=C(C=CC2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1 | C20H14F3N5O2
reactant | triethylamine | 1.08 mmol, 152 μL | C(C)N(CC)CC | C6H15N
reactant | 2-chloro-2-oxoethyl acetate | 0.870 mmol, 94 μL | C(C)(=O)OCC(=O)Cl | C4H5ClO3
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 2-oxo-2-{[6-(3-{[3-(trifluoromethyl)benzoyl]amino}phenoxy)imidazo[1,2-b]pyridazin-2-yl]amino}ethyl acetate | 299 mg, 80% | C(C)(=O)OCC(NC=1N=C2N(N=C(C=C2)OC2=CC(=CC=C2)NC(C2=CC(=CC=C2)C(F)(F)F)=O)C1)=O | C24H18F3N5O5
